Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
dyspnea 
 
Major Surgical or Invasive Procedure:
Right pigtail catheter placed into right pleural space
 
History of Present Illness:
___ with PMHx of HTN, hypothyroidism, dCHF, AS ___ ___, 
1+AR, 2+MR, 2+TR, and psoriatic arthritis, who presented to 
___ on ___ with dyspnea and leukocytosis. She was found 
to have RLL PNA and loculated parapneumonic effusion requiring 
transfer to ___ for chest tube placement.
 
Patient initially presented to her PCP for malaise and fatigue 
on ___. CXR showed RLL infiltrate and she was started on 
moxifloxacin. She progressively became short of breath with 
right-sided chest pain and presented to ___ on ___.

At ___, patient was found to have leukocytosis up to 24, 
right-sided pleural effusion concerning for empyema. She was 
started on vanc,zosyn and Azithro. Due to concern for empyema, 
ongoing 
pleurisy, and rising WBC count, pt underwent diagnostic 
thoracentesis that revealed an exudative pleural effusion 
(pleural fluid LDH 1200, total protein 4, pH 7, pleural WBC 
6504; 92% neutrophils). On ___, the patient became progressively 
tachypneic necessitating transfer to ___ for consideration of 
chest tube placement. 

Of note, CTA was negative for PE. Patient maintaining good O2sat 
on ___ liters but was very tachypneic. She has congestive heart 
failure and was diuresed with IV Lasix but then given back fluid 
when her lactate rose. Patient is DNR/DNI.
 
On arrival to the MICU, patient feels better but continues to be 
mildly short of breath. 

 
Past Medical History:
HTN
Dizziness
Hypothyroidism
Psoriatic Arthritis
CHF-preserved EF
Osteoperosis 
Chronic sinusitis  
 
Social History:
___
Family History:
Father died of MI at age ___. Mother had a stroke.
 
Physical Exam:
DISCHARGE PHYSICAL EXAM: 
patient deceased 
 
Pertinent Results:
ADMISSION LABS: 
=================
___ 03:43AM BLOOD WBC-20.5* RBC-2.63* Hgb-8.7* Hct-26.2* 
MCV-100* MCH-33.1* MCHC-33.2 RDW-13.3 RDWSD-48.8* Plt ___
___ 03:43AM BLOOD Glucose-113* UreaN-18 Creat-0.6 Na-133 
K-4.1 Cl-101 HCO3-21* AnGap-15
___ 03:48AM BLOOD Lactate-1.1

DISCHARGE LABS:
==================
No labs for several days prior to death 

IMAGING STUDIES: 
==================
CHEST (PORTABLE AP) Study Date of ___  
IMPRESSION: 
1. Stable right lower lobe consolidation and large loculated 
pleural effusion. 
2. Left lung base opacity and small pleural effusion may reflect 
pneumonia or atelectasis. 
3. Left upper lung opacity is increased than before and likely 
reflect another focus of pneumonia. 

CHEST (PORTABLE AP) Study Date of ___  
IMPRESSION:  
Compared to chest radiographs ___ through ___ at 15:39. 
Sequence of radiographic findings venous suggests chronic 
cardiomegaly and 
borderline congestive heart failure, with concurrent right lower 
lobe 
pneumonia on ___, both worsened through ___, follow by 
her right 
pleural drainage.  Today there is some persistence of pulmonary 
edema, but 
still large scale consolidation in both the right lower lobe and 
left upper lobe suggesting inadequately treated pneumonia.  
Small to moderate right pleural effusion persists, then 
improvement since ___.  Basal pigtail pleural drainage 
catheter could be sharply folded, interfering with function.  
No pneumothorax.
Chronic, moderate to severe cardiomegaly has improved, 

CHEST (PORTABLE AP) Study Date of ___  
IMPRESSION:  
In comparison with the study of ___, there is little overall 
change.  Right pigtail catheter remains in place with no 
evidence of substantial effusion or neumothorax.  Diffuse 
bilateral pulmonary opacifications are again essentially 
unchanged. 
  

MICRO DATA: 

___ 12:01 pm PLEURAL FLUID      PLEURAL FLUID. 

   GRAM STAIN (Final ___: 
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary):    NO MYCOBACTERIA ISOLATED. 


___ 10:15 am BLOOD CULTURE      RIGHT ARM. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
___ woman admitted with pneumonia, initially requiring 
ICU level care for hypoxemia (required high-flow) and loculated 
pleural effusions requiring placement of chest tube. In the 
setting of pulmonary infection, she also had afib with RVR which 
was controlled with metoprolol. She was started on broad 
spectrum antibiotics, although no organism was ever recovered 
from her pleural fluid studies. During ongoing goals of care 
discussions, she continued to express her wishes to be DNR/DNI, 
and after she was transitioned out of the ICU her wish to not be 
re-admitted to the ICU. She remained lucid and able to 
participate in all goals of care discussions, with her very 
supportive family at her bedside. Broad spectrum antibiotics and 
oxygen support were continued in the hope that her pneumonia 
would improve, but as it became clear she was not improving, the 
patient and her family decided to focus more on relieving her 
symptoms of dyspnea. She died peacefully with her family at her 
bedside. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Levothyroxine Sodium 25 mcg PO DAILY 
3. raloxifene 60 mg oral DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Azithromycin 500 mg PO DAILY 
6. Ipratropium Bromide Neb 1 NEB IH Q4H:PRN shortness of breath 
7. Levalbuterol Neb 1.25 mg NEB Q4H:PRN dyspnea 
8. Metoprolol Tartrate 6.25 mg PO Q6H 
9. Omeprazole 20 mg PO BREAKFAST 
10. Colchicine 0.3 mg PO Q48H 
11. Vancomycin 1000 mg IV Q 24H 
12. CefePIME 1 g IV BID 

 
Discharge Medications:
patient deceased 
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
patient deceased 
 
Discharge Condition:
patient deceased 
 
Discharge Instructions:
patient deceased 
 
Followup Instructions:
___